US20010006977A1
a. 4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenylamino-ethyl acetate
Prepared analogously to Example 1k from 4-(5-methyl-1,2,4-oxadiazol-3-yl)-aniline and ethyl bromoacetate in N-ethyl-diisopropylamine.

reactant | 4-(5-methyl-1,2,4-oxadiazol-3-yl)-aniline | CC1=NC(=NO1)C1=CC=C(N)C=C1 | C9H9N3O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
solvent | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
product | 4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenylamino-ethyl acetate | C(C)(=O)OCCNC1=CC=C(C=C1)C1=NOC(=N1)C | C13H15N3O3
